US07786129B2
3-{4-[4-(3-Chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one mono-hydrochloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one and 1-(3-chloro-phenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=C(C=C12)F)=O)CC | C14H17ClFNO
reactant | 1-(3-chloro-phenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 3-{4-[4-(3-Chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-5-fluoro-1,3-dihydro-2H-indol-2-one mono-hydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCCC1(C(NC2=CC=C(C=C12)F)=O)CC | InChI=1S/C24H29ClFN3O.ClH/c1-2-24(21-17-19(26)8-9-22(21)27-23(24)30)10-3-4-11-28-12-14-29(15-13-28)20-7-5-6-18(25)16-20;/h5-9,16-17H,2-4,10-15H2,1H3,(H,27,30);1H
